US08980911B2
3,5-Dichloro-4-({7-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[2,3-c]pyridin-3-yl}carbonyl)-N-(2-methoxyethyl)benzamide was prepared analogously using N-(1H-pyrrolo[2,3-c]pyridin-7-yl)cyclopropane carboxamide and 2,6-dichloro-4-(2-methoxyethylcarbamoyl)benzene carbonyl chloride (Compound No. 16).

reactant | N-(1H-pyrrolo[2,3-c]pyridin-7-yl)cyclopropane carboxamide | N1C=CC=2C1=C(N=CC2)NC(=O)C2CC2 | C11H11N3O
reactant | 2,6-dichloro-4-(2-methoxyethylcarbamoyl)benzene carbonyl chloride | ClC1=C(C(=CC(=C1)C(NCCOC)=O)Cl)C(=O)Cl | C11H10Cl3NO3
product | 3,5-Dichloro-4-({7-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[2,3-c]pyridin-3-yl}carbonyl)-N-(2-methoxyethyl)benzamide | ClC=1C=C(C(=O)NCCOC)C=C(C1C(=O)C1=CNC2=C(N=CC=C21)NC(=O)C2CC2)Cl | C22H20Cl2N4O4
